US04840883
Synthesis of 2-{2-(2,4-di-t-amylphenoxy)butanamido}-4-chloro-5-nitrophenol
In 100 ml of ethyl acetate was dissolved 25 g (133×10-3 mole) of 2-amino-4-chloro-5-nitrophenol. To the solution was added 50 g of 2-(2,4-di-t-amylphenoxy)butanoic acid chloride at room temperature, and then the mixture was refluxed under heating for 2 hours. After the reaction, a solvent was evaporated under reduced pressure and the residue was recrystallized from hexane to obtain products. Yield: 61 g.

reactant | 2-amino-4-chloro-5-nitrophenol | 133×10-3 mole, 25 g | NC1=C(C=C(C(=C1)Cl)[N+](=O)[O-])O | C6H5ClN2O3
reactant | 2-(2,4-di-t-amylphenoxy)butanoic acid chloride | 50 g | C(C)(C)(CC)C1=C(OC(C(=O)Cl)CC)C=CC(=C1)C(C)(C)CC | C20H31ClO2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 2-{2-(2,4-di-t-amylphenoxy)butanamido}-4-chloro-5-nitrophenol | C(C)(C)(CC)C1=C(OC(C(=O)NC2=C(C=C(C(=C2)Cl)[N+](=O)[O-])O)CC)C=CC(=C1)C(C)(C)CC | C26H35ClN2O5
